Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Gadolinium-Containing Agents / latex
 
Attending: ___.
 
Chief Complaint:
AMS, fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH of HBV, Cirrhosis, Diabetes, Depression/Anxiety,
Metastatic Squamous Cell Cancer of the Lung, Occipital 
Metastasis
c/b hemorrhage (s/p occipital craniotomy for clot evacuation
___, DVT ___, no longer on A/c ___ CNS bleed), who
presented from OSH with fever/AMS

As per review of notes, patient was discharged on ___ after
occipital craniotomy for clot evacuation and had attended his
initial followup appointments but reported not taking
dexamethasone or other meds as prescribed. There was concern for
possible cellulitis around his port for which he was prescribed
PO antibiotics for 2 weeks starting on ___. He had simulation 
and
his ___ of 5 planned cyberknife sessions then did not followup.
Multiple attempts to contact him were unsuccessful. Police
eventually contact to do safety check and patient was brought to
OSH ED where he was noted to be hypotensive and febrile with
elevated troponin and TWI. PAtient was given IVF and transferred
to our ED

In the ED, initial VS 99.8 80 110/65 18 99% RA. Patient was 
noted
to have cellulitis of LLE and likely around port as well. WBC 
5.3
(73% PMN), Hgb 10.2, plt 98, BNP 767, Ca 7.4, Phos 2.5, Trop
0.02, CHEM wnl, Lactate 1.5, UA negative for infection, VBG
7.4/40/40. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Squamous Cell Carcinoma of the RUL, stage IV (T3NxM1a, PD-L1-)
This diagnosis was established on a CT-guided biopsy of the 
right lung mass in ___, which showed squamous cell cancer with 
p40+. Patient lost to follow-up afterwards. He then had a 
staging PETscan on ___ which showed a 5.5 cm cavitary 
spiculated FDG avid mass in the right upper lobe and associated  
right hilar adenopathy and axillary LN with weak uptake. The PET 
scan also showed a 1.3 cm FDG avid left upper lobe pulmonary 
nodule.

The percutaneous biopsy of LUL was unfortunately complicated by 
massive hemoptysis requiring ICU admission as well as intubation 
and the results of the left upper lobe nodule were 
indeterminate.

Patient missed multiple appointments with different specialists 
on the multidisciplinary team. He eventually had a scheduled 
VATS left upper lobe wedge resection without complications on 
___. Pathology showed pT2a SCC LUL  AS WELL as a left pleural 
nodule showing invasive SCC consistent with metastatic disease.

Palliative Carboplatin (AUC 5)/Paclitaxel (175mg/m2) IV every 3 
weeks was initiated ___. Cycle 2 was delayed to ___ in 
setting of missed appointments.

PAST MEDICAL HISTORY:
- Metastatic Squamous Cell Cancer of the Lung, as above
- Hepatitis B
- Cirrhosis
- Diabetes c/b Polyneuropathy
- Chronic Pain Syndrome
- Rectal Cancer s/p chemo/XRT in ___
- Depression
- Anxiety Disorder
- Panic Disorder
 
Social History:
___
Family History:
Mother had colon cancer at an older age. Father with 
hypertension.
 
Physical Exam:
Admission Exam:
GENERAL: laying in bed, appears calm, NAD
EYES: PERRLA, no conjuctival injection
HEENT: + thrush, MMM  
NECK: supple, able to move head from side to side 
LUNGS: CTA anteriorly only as patient would not sit forward, wet
sounding cough, normal RR
CV: RRR, normal distal perfusion, asymmetrical edema in legs L
worse than right
ABD: soft, NT, ND, normoactive BS, no rebound or guarding
GENITOURINARY: no foley
EXT: poor muscle bulk, LLE much larger than right with 2+ edema
to thigh, slight erythema from knee down to ankle, very warm to
touch, unlike right leg. Also has areas of induration on medial
surface of left leg. Able to move left ankle without pain, no
obvious effusion. 
SKIN: left leg described above, port site in left chest with 
well
circumscribed erythema over port, without palpable collection
underneath, no open drainage, looks similar to ___ picture
___ uploaded mid ___ 
NEURO: Answers to his name, but will not answer orientation
questions, will answer some clinical questions, then appears to
fall asleep but is easily aroused by pain/voice. With pain, he
appropriately responds and says "stop pressing so hard" so seems
to have better mental status than he lets on
ACCESS: PORT described in skin section and is not accessed, PIV
 
Pertinent Results:
___ 09:45AM BLOOD WBC-6.5 RBC-4.27* Hgb-11.3* Hct-35.0* 
MCV-82 MCH-26.5 MCHC-32.3 RDW-16.5* RDWSD-48.8* Plt ___
___ 07:16AM BLOOD WBC-4.4 RBC-4.21* Hgb-11.3* Hct-34.5* 
MCV-82 MCH-26.8 MCHC-32.8 RDW-16.5* RDWSD-48.8* Plt ___
___ 07:01AM BLOOD WBC-6.9 RBC-4.28* Hgb-11.5* Hct-34.2* 
MCV-80* MCH-26.9 MCHC-33.6 RDW-16.4* RDWSD-46.6* Plt ___
___ 04:14PM BLOOD WBC-5.3 RBC-3.73* Hgb-10.2* Hct-30.6* 
MCV-82 MCH-27.3 MCHC-33.3 RDW-16.7* RDWSD-48.7* Plt Ct-98*
___ 09:45AM BLOOD Glucose-421* UreaN-15 Creat-0.5 Na-135 
K-4.3 Cl-97 HCO3-26 AnGap-12
___ 07:16AM BLOOD Glucose-376* UreaN-13 Creat-0.5 Na-135 
K-4.5 Cl-97 HCO3-27 AnGap-11
___ 04:14PM BLOOD Glucose-165* UreaN-5* Creat-0.5 Na-137 
K-3.5 Cl-106 HCO3-24 AnGap-7*
___ 07:01AM BLOOD ALT-15 AST-21 CK(CPK)-39* AlkPhos-61 
TotBili-0.5
___ 04:14PM BLOOD ALT-15 AST-25 AlkPhos-60 TotBili-0.4
___ 07:01AM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:14PM BLOOD cTropnT-0.02* proBNP-767*
___ 09:45AM BLOOD Phos-2.3* Mg-1.8
___ 04:14PM BLOOD Calcium-7.4* Phos-2.5* Mg-1.6

BCX/UCX NGTD

CXR:
Comparison to ___.  The parenchymal opacity in the 
right upper lobe has substantially increased in extent and 
severity.  The abnormality now occupies the entire right upper 
lobe.  No other changes are visualized.  Stable normal size of 
the cardiac silhouette.  The position of the left central venous 
access line is stable. 

CT head:
 
IMPRESSION:   
1. Findings as stated above with continued left posterior 
cerebral edema at the site of recent craniotomy, resulting in 
left cerebral sulcal effacement.  Tiny hyperdense focus within 
the left occipital lobe may represent residual blood products, 
difficult to exclude a component of acute bleeding. 
2. Increased size of right occipital lesion concerning for 
growing metastasis. 

___:
IMPRESSION: 
1. No evidence of deep venous thrombosis in the left lower 
extremity veins. 
2. Prominent left inguinal lymph nodes.  Please correlate 
clinically. 
  

  

 
Brief Hospital Course:
___ PMH of HBV, Cirrhosis, Diabetes, Depression/Anxiety,
Metastatic Squamous Cell Cancer of the Lung, Occipital 
Metastasis
c/b hemorrhage (s/p occipital craniotomy for clot evacuation
___, DVT ___, no longer on A/c ___ CNS bleed), who
presented from OSH with fever/AMS found to have port/LLE
cellulitis. Multiple multidisciplinary discussions had regarding 
goals of care and pt's preference was to return home with 
hospice. 

#Metastatic Squamous Cell Cancer of the Lung, Occipital
#Brain Metastasis c/b hemorrhage 
#Chronic oncologic-related pain control
Extensive phone, email, and in person conversations had with 
outpt providers.
No further med onc or rad onc treatment appropriate at this 
time. PCP, ___, and other providers involved. Imaging 
showed progression of pt's cancer burden in the lung and brain. 
Pt's goals of care changed to hospice. Pt expressed a desire to 
leave the hospital multiple times and enjoy his remaining days 
at home. He was discharged on a higher than home dose of 
dexamethasone, 4mg BID with higher dose keppra 1000mg BID. He 
will follow up with his primary oncologist for ongoing care and 
have home hospice assistance. Pain well controlled on home 
regimen of long acting morphine 30mg BID and prn dilaudid. 

#Goals of care
#Code Status
Upon learning his prognosis of months and learning that there 
was no further recommended oncologic therapies appropriate for 
him at this time, pt expressed the desire to return home and 
spend his remaining days in his home. Therefore, he was DC'd 
home on home hospice care. At this time, he is fully ambulatory 
and independent with mobility. He needs supervision with higher 
functioning IADLs but otherwise was felt to be safe for home 
with hospice and ___, PCA services. AT the time of DC, he is 
full code, but this will need to be continually addressed. 

#Cellulitis
#skin Port infection
#Sepsis
Pt was given broad spectrum abx for port infection and 
cellulitis, which improved. During hospitalization, he had a few 
days of IV abx therapy. However, he then desired to discontinued 
IV therapy and continue with oral antibiotics as he no longer 
wanted an IV or IV antibiotics. He was discharged with 
doxycycline to complete a ___ellulitis 
clinically had resolved by the time of discharge.  

#Capacity
Pt was evaluated by multiple providers, including psychiatry, 
all of whom agreed that pt did not have capacity to leave AMA 
___ or ___. However, after further discussion with pt, 
psychiatry, SW, CM, palliative care, primary oncologist, a safe 
discharge plan was enacted with home hospice, ___, roommate at 
night to make a safe as possible DC plan. Pt was also evaluated 
by OT who determined that pt was safe for DC with but with 
direct supervision of higher IADLs, ex. cooking. ___ states that 
he has meals provided to him. 

#Hx of DVT
Previously on anticoagulation since ___ until his occipital 
hemorrhage now no longer anticoagulated. Duplex of left lower 
extremity without DVT on admission. No indication for 
anticoagulation at this time given brain bleed and risks
outweighing benefits. 

#Cirrhosis
#HBV
Outpt tenovivir

#DM
He was given HISS during admission. He did have hyperglycemia 
while on steroids. Therefore, was transitioned to higher dose 
1000mg BID metformin upon DC. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Dexamethasone 2 mg PO Q12H 
4. Docusate Sodium (Liquid) 100 mg PO BID 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Pantoprazole 40 mg PO Q24H 
7. Senna 8.6 mg PO BID:PRN Constipation - First Line 
8. Gabapentin 900 mg PO QAM 
9. Gabapentin 900 mg PO NOON 
10. Gabapentin 1200 mg PO QHS 
11. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
12. LevETIRAcetam 750 mg PO BID 
13. Loratadine 10 mg PO DAILY:PRN allergies 
14. Morphine SR (MS ___ 30 mg PO Q12H 
15. Multivitamins 1 TAB PO DAILY 
16. Ondansetron ODT 8 mg PO Q8H:PRN nasuea/vomiting 
17. Vemlidy (tenofovir alafenamide fumarate) 25 mg oral DAILY 
18. PredniSONE 50 mg PO ASDIR 
19. DiphenhydrAMINE 50 mg PO ASDIR 
20. Cephalexin 500 mg PO Q6H 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
take until ___ 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*5 Tablet Refills:*0 
2.  Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 4 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  LevETIRAcetam 1000 mg PO Q12H 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
7.  ClonazePAM 0.5 mg PO BID:PRN anxiety 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0 
8.  Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 100 mg 1 by mouth twice a day Disp #*60 
Capsule Refills:*0 
9.  HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
10.  Loratadine 10 mg PO DAILY:PRN allergies  
11.  Morphine SR (MS ___ 30 mg PO Q12H 
RX *morphine 30 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0 
12.  Multivitamins 1 TAB PO DAILY  
13.  Ondansetron ODT 8 mg PO Q8H:PRN nasuea/vomiting  
14.  Pantoprazole 40 mg PO Q24H  
15.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*60 
Tablet Refills:*0 
16.  Vemlidy (tenofovir alafenamide fumarate) 25 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis
Lung cancer with metastasis to the brain
diabetes
hepatitis B

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for a skin infection, which we think is now 
improving and you were converted to oral antibiotics which you 
can take for 2 more days. 
In addition, we discussed with you that there are no further 
chemotherapy treatments currently recommended to you by your 
oncologist for your cancer. However, you will still follow up 
with Dr. ___ team for ongoing care. You expressed 
a desire many times to return to your home. Therefore, we set up 
as many services, including hospice with ___, at home as 
possible to help you and keep you as safe as possible.  

Some of your medication doses were changed. Please review your 
medication list carefully for the adjustments. 
You are on a few medications for pain (dilaudid, morphine) as 
well as a medication for anxiety (clonazepam). Please be careful 
taking these medications and only take as prescribed. Taking 
them together can lead to difficulty breathing and death. They 
can be habit forming. Please keep these medications safe at home 
from others. Take with stool softeners as they can be 
constipating. 
We wish you the best with your health. 
___ Medicine
 
Followup Instructions:
___